*****************************************************************
* NXP BUK9Y72-80E
*
* Polarity N-Channel
* Ratings 80V/7.800000E-002OHMS/15.1683852586494A
*
* Date Created Tue Feb 05 08:47:21 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y72-80E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 80000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0555240967709056 TC=0.00548202238921395,1.52195671748724E-05
RBD 9 4 0.00369905170349025 TC=0.00548202238921395,1.52195671748724E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 6e-10
RG 1 2 5.67663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	695.698
+ -10	694.565
+ -8	692.904
+ -6	690.261
+ -5	688.063
+ -4	684.541
+ -3	675.998
+ -2	646.862
+ -1	419.196
+ -0.5	288.578
+ -0.2	184.4
+ -0.1	181.935
+ 0	134.2669
+ 0.1	109.79784
+ 0.2	109.64164
+ 0.5	98.84319
+ 1	85.7427
+ 2	72.69887
+ 3	68.76687
+ 4	66.51024
+ 5	64.86373
+ 6	63.62228
+ 8	61.79191
+ 10	60.28542
+ 12	58.95168
+ 15	57.19534
+ 16	56.65002
+ 20	54.77936
+ 25	52.80546
+ 30	51.16116
+ 50	46.80138



.MODEL MINT NMOS(Vto=2.00842293602369 Kp=3.872965e+001 Nfs=460000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=1.37002083393626e-13
+ N=1 M=0.61 VJ=0.55 Fc=0.5 Cjo=2.3155464e-10 Tt=1.2544e-08)

.ENDS

